US05747517
Preparation of 5-[[3-[(4-benzoylphenyl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone
The 3-(4-benzoylbenzyloxy)benzaldehyde (2.0 g, 6.3 mmol) was coupled with rhodanine (1.06 g, 8.0 mmol) in the presence of sodium acetate (1.89 g, 22 mmol) and acetic acid (75 ml) essentially as previously described to yield 1.6 grams (59.0%) of the deisred title product. mp 212.5°-213.5° C. NMR. FDMS (M+) 431.

reactant | 3-(4-benzoylbenzyloxy)benzaldehyde | 6.3 mmol, 2.0 g | C(C1=CC=CC=C1)(=O)C1=CC=C(COC=2C=C(C=O)C=CC2)C=C1 | C21H16O3
reactant | rhodanine | 8.0 mmol, 1.06 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | 22 mmol, 1.89 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 5-[[3-[(4-benzoylphenyl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone | 1.6 grams, 59.0% | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)COC=1C=C(C=CC1)C=C1C(NC(S1)=S)=O | C24H17NO3S2
